US07910595B2
4-(4-tert-Butoxycarbonylamino-phenoxy)-3-nitro-benzoic acid methyl ester
A mixture of 4-chloro-3-nitrobenzoic acid methyl ester (15.0 g, 68 mmol), (4-hydroxy-phenyl)-carbamic acid tert-butyl ester (14.7 g, 68 mmol) and K2CO3 (18.9 g, 136 mmol) in DMF (300 mL) was heated at 110° C. for 1 hour under N2, cooled to room temperature, and then poured into ice-H2O (1200 mL) under stirring. The aqueous mixture was extracted with AcOEt (600 mL). The extract was washed with H2O (3 times) and brine, dried over MgSO4, and evaporated to give pale brown crystal, which was purified by washing with i-Pr2O and dried at 40° C. overnight under reduced pressure to give the title compound as pale yellow crystal (18.5 g, 70%).

reactant | 4-chloro-3-nitrobenzoic acid methyl ester | 68 mmol, 15.0 g | COC(C1=CC(=C(C=C1)Cl)[N+](=O)[O-])=O | C8H6ClNO4
reactant | (4-hydroxy-phenyl)-carbamic acid tert-butyl ester | 68 mmol, 14.7 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)O)=O | C11H15NO3
reactant | K2CO3 | 136 mmol, 18.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 4-(4-tert-Butoxycarbonylamino-phenoxy)-3-nitro-benzoic acid methyl ester | 18.5 g, 70% | COC(C1=CC(=C(C=C1)OC1=CC=C(C=C1)NC(=O)OC(C)(C)C)[N+](=O)[O-])=O | C19H20N2O7
